US08859768B2
To a solution of N-(4-{5-[2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl}-5-methylpyridin-2-yl)acetamide (0.20 g, 0.34 mmol) in DCM (5 mL) was added TFA (2 mL). The mixture was allowed to stir at rt overnight. The mixture was concentrated and the residue was purified by column chromatography to give N-(4-{5-[2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]-4-(4H-1,2,4-triazol-3-yl)-2-furyl}-5-methylpyridin-2-yl)acetamide (0.14 g, 81%). LCMS (FA): m/z=477.6 (M+H).

reactant | N-(4-{5-[2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl}-5-methylpyridin-2-yl)acetamide | 0.34 mmol, 0.20 g | ClC1=C(C=C(C=C1)CN1CCCC1)C1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN(C=N1)COCC[Si](C)(C)C | C31H39ClN6O3Si
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{5-[2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]-4-(4H-1,2,4-triazol-3-yl)-2-furyl}-5-methylpyridin-2-yl)acetamide | 0.14 g, 81% | ClC1=C(C=C(C=C1)CN1CCCC1)C1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN=CN1 | C25H25ClN6O2
